US07557123B2
methyl (5-methyl-2-styryloxazol-4-yl)acetate
Cinnamamide (0.5 g) and methyl 4-bromo-3-oxopentanoate (0.71 g) were dissolved in N,N-dimethylformamide (2.5 ml) and the mixture was stirred 100° C. for 15 h. Ethylacetate (50 ml) was added, and the mixture was washed with water (100 ml) and then with saturated brine (100 ml), and dried (Na2SO4). Ethyl acetate was evaporated under reduced pressure and the obtained residue was purified by column chromatography to give the title compound (0.1 g).

reactant | Cinnamamide | 0.5 g | C(C=CC1=CC=CC=C1)(=O)N | C9H9NO
reactant | methyl 4-bromo-3-oxopentanoate | 0.71 g | BrC(C(CC(=O)OC)=O)C | C6H9BrO3
reactant | Ethylacetate | 50 ml | C(C)OC(C)=O | C4H8O2
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | methyl (5-methyl-2-styryloxazol-4-yl)acetate | 0.1 g | CC1=C(N=C(O1)C=CC1=CC=CC=C1)CC(=O)OC | C15H15NO3
